US04920116
1-(2,4-Dichlorophenyl)-N2,N2 -dimethyl-1,2-ethanediamine
In a manner similar to Preparation 21 react 1-(2,4-dichlorophenyl)-2-(dimethylamino)ethanone with NH4OAc and NaCNBH3 to obtain the title compound.

reactant | 1-(2,4-dichlorophenyl)-2-(dimethylamino)ethanone | ClC1=C(C=CC(=C1)Cl)C(CN(C)C)=O | C10H11Cl2NO
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
product | 1-(2,4-Dichlorophenyl)-N2,N2 -dimethyl-1,2-ethanediamine | ClC1=C(C=CC(=C1)Cl)C(CN(C)C)N | C10H14Cl2N2
